US06930104B2
Ethyl 5-[[1-[2-methyl-1-(3,4,5-trimethoxybenzoyl)-1,2,3,4-tetrahydro-4-quinolinyl]-1,2,3,4-tetrahydro-6-quinolinyl]oxy]pentanoate
Starting with 2-methyl-1-(3,4,5-trimethoxybenzoyl)-1,2,3,4-tetrahydro-4-quinolinol (1.3 g, 3.6 mmol) prepared in Reference Example 22 and ethyl 5-[(1,2,3,4-tetrahydro-6-quinolinyl)oxy]pentanoate (2.30 g, 8.28 mmol), the same procedure as shown in Example 1 was repeated to give the titled compound (806 mg, yield: 40%) as a colorless oil. (cis:trans=1:1.3)

reactant | 2-methyl-1-(3,4,5-trimethoxybenzoyl)-1,2,3,4-tetrahydro-4-quinolinol | 3.6 mmol, 1.3 g | CC1N(C2=CC=CC=C2C(C1)O)C(C1=CC(=C(C(=C1)OC)OC)OC)=O | C20H23NO5
reactant | ethyl 5-[(1,2,3,4-tetrahydro-6-quinolinyl)oxy]pentanoate | 8.28 mmol, 2.30 g | N1CCCC2=CC(=CC=C12)OCCCCC(=O)OCC | C16H23NO3
product | Ethyl 5-[[1-[2-methyl-1-(3,4,5-trimethoxybenzoyl)-1,2,3,4-tetrahydro-4-quinolinyl]-1,2,3,4-tetrahydro-6-quinolinyl]oxy]pentanoate | 806 mg, yield: 40% | CC1N(C2=CC=CC=C2C(C1)N1CCCC2=CC(=CC=C12)OCCCCC(=O)OCC)C(C1=CC(=C(C(=C1)OC)OC)OC)=O | C36H44N2O7
